US04415573
2-(3,4,5-Trimethoxyphenyl)-1,3-dioxolan (20.3 g) prepared from 3,4,5-trimethoxybenzaldehyde and ethylene glycol was dissolved in dichloromethane (50 ml). To the solution bis(trimethylsilyl)-5-fluorouracil prepared from 5-fluorouracil (10 g) was added and treated as in Example 10 to give 7.2 g of crystalline 1-[α-(2-hydroxyethoxy)-3,4,5-trimethoxybenzyl]-5-fluorouracil.

reactant | 2-(3,4,5-Trimethoxyphenyl)-1,3-dioxolan | 20.3 g | COC=1C=C(C=C(C1OC)OC)C1OCCO1 | C12H16O5
reactant | 3,4,5-trimethoxybenzaldehyde | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | bis(trimethylsilyl)-5-fluorouracil | C[Si](C)(C)C1=C(C(N(C(N1)=O)[Si](C)(C)C)=O)F | C10H19FN2O2Si2
reactant | 5-fluorouracil | 10 g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | ethylene glycol | C(CO)O | C2H6O2
product | 1-[α-(2-hydroxyethoxy)-3,4,5-trimethoxybenzyl]-5-fluorouracil | 7.2 g | OCCOC(C1=CC(=C(C(=C1)OC)OC)OC)N1C(=O)NC(=O)C(=C1)F | C16H19FN2O7
